US07524845B2
1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(5-nitro-pyrazolo[3,4-b]pyridine-1-yl]-ethanone (15 mg) is combined with 200 mg of iron powder in 2 mL of acetic acid at 100° C. for 30 min. After cooling to rt, the reaction solution was diluted with EtOAc and filtered. The filtrate was evaporated in vacuo and purified by HPLC to provide 1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(5-amino-pyrazolo[3,4-b]pyridine-1-yl]-ethanone: HPLC retention time=1.46 minutes (Agilent Zorbax SB-C18, 2.1×50 mm, 5μ, 35° C.) using 1 ml/min flow rate, a 2.5 minute gradient of 20% to 100% B with a 1.1 minute wash at 100% B (A=0.1% formic acid /5% acetonitrile/94.9% water, B=0.1% formic acid /5% water/94.9% acetonitrile); MS (ES) M+H expect=414.2, found=415.1.

reactant | 1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(5-nitro-pyrazolo[3,4-b]pyridine-1-yl]-ethanone | 15 mg | ClC1=C(C=C(C=C1)N1CCN(CC1)C(CN1N=CC=2C1=NC=C(C2)[N+](=O)[O-])=O)OC | C19H19ClN6O4
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | iron | 200 mg | [Fe] | Fe
product | 1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(5-amino-pyrazolo[3,4-b]pyridine-1-yl]-ethanone | ClC1=C(C=C(C=C1)N1CCN(CC1)C(CN1N=CC=2C1=NC=C(C2)N)=O)OC | C19H21ClN6O2
